US05977094
Preparation of (3β)-17-(2-amino-4-thiazolyl)-androsta-5,16-dien-3-ol.
Dissolve 16-dehydropregnenolone (5.00 g, 15.90 mmol) and 5,5-dibromobarbituric acid (4.55 g, 15.90 mmol) in tetrahydrofuran (60 mL). Add concentrated aqueous hydrogen bromide (100 μL of a 48% solution) to the stirring solution and heat the reaction at reflux for 1 hour. Cool slightly and then concentrate under vacuum to produce a brown oily foam. Dissolve the residue in methylene chloride (350 mL), rinse with 50% saturated sodium bicarbonate (2×200 mL), brine (125 mL), dry over anhydrous magnesium sulfate, filter and concentrate under vacuum to provide 21-bromo-3β-hydroxypregna-5,16-dien-20-one (6.53 g) as an orange-brown solid, slightly contaminated with starting material. Scheme II, step B; Suspend 21-bromo-3β-hydroxypregna-5,16-dien-20-one (16 mmol) in ethanol (260 mL) and add thiourea (1.33 g, 17.5 mmol). Heat the reaction at reflux for 1 hour and distill off approximately half of the solvent. Allow the reaction to cool to room temperature. Collect the solid by filtration and dry under high vacuum to provide the title compound (3.62 g) as a bright yellow solid. Concentrate the filtrate to approximately 20 mL to provide a second crop, dry under high vacuum and combine with the first crop to provide a total of 4.25 g. Recrystallize this from ethanol to provide the title compound (2.77 g) as a white crystalline solid , mp 258-260° C. (dec); 1H NMR (DMSO-d6) δ 8.85 (broad singlet, 2H), 6.81 (s, 1H), 6.28 (dd, 1H, J=1.9, 3.3 Hz), 5.29 (broad doublet, 1H, J=4.7 hz), 3.43 (q, 2H, J=7.0 Hz), 3.32-3.18 (m, 1H), 1.05 (t, 3H, J=7.0 Hz), 0.99 (s, 3H), 0.94 (s, 3H); 13C NMR (DMSO-d6) δ 169.4, 142.5, 141.6, 135.6, 131.0, 120.1, 102.0, 69.9, 56.4, 55.9, 49.7, 46.1, 42.2, 36.8, 36.2, 34.4, 31.3, 31.2, 30.8, 29.7, 20.4, 19.0, 18.5, 15.8; MS (CI,CH4) m/z (rel. intensity) 371 (MH+, 76), 370 (33), 369 (34), 353 (100), 83 (26), 81 (27).

reactant | 21-bromo-3β-hydroxypregna-5,16-dien-20-one | 16 mmol | BrCC(C1=CC[C@H]2[C@@H]3CC=C4C[C@H](CC[C@]4(C)[C@H]3CC[C@]12C)O)=O | C21H29BrO2
reactant | thiourea | 17.5 mmol, 1.33 g | NC(=S)N | CH4N2S
solvent | ethanol | 260 mL | C(C)O | C2H6O
product | (3β)-17-(2-amino-4-thiazolyl)-androsta-5,16-dien-3-ol | 3.62 g | NC=1SC=C(N1)C=1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C[C@H](CC[C@]3(C)[C@H]1CC2)O | C22H30N2OS
